US09284271B2
N-(2-(5-Chloro-1H-indol-3-yl)ethyl)-4-(thiophen-2-yl)benzamide was obtained following Method C starting from 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride (0.100 g, 0.424 mmol), 4-(thiophen-2-yl)benzoyl chloride (0.102 g; 0.445 mmol), and triethylamine (0.149 mL; 1.06 mmol) in dichloromethane (5 mL). Flash chromatography on silica gel (eluent 1 to 10% ethyl acetate in dichloromethane) furnished 0.058 g (36%) of N-(2-(5-Chloro-1H-indol-3-yl)ethyl)-4-(thiophen-2-yl)benzamide as a white solid.

reactant | 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride | 0.424 mmol, 0.100 g | Cl.ClC=1C=C2C(=CNC2=CC1)CCN
reactant | 4-(thiophen-2-yl)benzoyl chloride | 0.445 mmol, 0.102 g | S1C(=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C11H7ClOS
reactant | triethylamine | 1.06 mmol, 0.149 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-(5-Chloro-1H-indol-3-yl)ethyl)-4-(thiophen-2-yl)benzamide | 0.058 g, 36% | ClC=1C=C2C(=CNC2=CC1)CCNC(C1=CC=C(C=C1)C=1SC=CC1)=O | C21H17ClN2OS
